US08349880B2
Step E (1): A mixture of 3-chloro-1H-1,2,4-triazole (2.76 g, 26.7 mmol), 1-chloro-2-methoxy-4-nitrobenzene (5.0 g, 26.7 mmol), potassium hydroxide flakes (1.496 g, 26.7 mmol), and DMSO (25 mL) was heated in a sealed reaction vessel 100° C. for 24 h. The reaction was allowed to cool to rt and additional portions of 3-chloro-1H-1,2,4-triazole (1.38 g, 0.5 equiv) and potassium hydroxide (0.75 g, 0.5 equiv) were added. The reaction vessel was resealed and heated to 110° C. for an additional 24 h. The resulting mixture was allowed to cool to rt and was poured into 500 mL of water. The aqueous mixture was extracted with EtOAc (3×100 mL). The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude residue was purified using silica gel chromatography (0-5% MeOH/chloroform, linear gradient over 144 min, flow 25 mL/min) to afford 2-(3-chloro-1H-1,2,4-triazol-1-yl)-5-nitrophenol (0.924 g, 3.84 mmol, 14.4% yield). LC-MS (M+H)+=241.0. 1H NMR (500 MHz, chloroform-d) δ ppm 11.97 (br. s., 1 H) 9.24 (s, 1 H) 7.90-7.95 (m, 1 H) 7.89 (d, J=2.44 Hz, 1 H) 7.84 (dd, J=8.85, 2.44 Hz, 1 H).

reactant | 3-chloro-1H-1,2,4-triazole | 26.7 mmol, 2.76 g | ClC1=NNC=N1 | C2H2ClN3
reactant | 1-chloro-2-methoxy-4-nitrobenzene | 26.7 mmol, 5.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | DMSO | 25 mL | CS(=O)C | C2H6OS
reactant | 3-chloro-1H-1,2,4-triazole | 1.38 g, 0.5 equiv | ClC1=NNC=N1 | C2H2ClN3
reactant | potassium hydroxide | 0.75 g, 0.5 equiv | [OH-].[K+]
solvent | water | 500 mL | O | H2O
product | 2-(3-chloro-1H-1,2,4-triazol-1-yl)-5-nitrophenol | 3.84 mmol, 0.924 g, 14.4% yield | ClC1=NN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])O | C8H5ClN4O3
